US08044044B2
3.i. trans-2-(4-tert-butoxycarbonylamino-cyclohexyl)-3-hydroxy-3-(6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid methyl ester
To a solution of trans-(4-tert-butoxycarbonylaminocyclohexyl)-acetic acid methyl ester (1.80 g, 6.63 mmol; prepared according to WO 2000/024717) in THF (20 mL) cooled to −78° C. was added LiHMDS (1M in THF, 17.1 mL) dropwise over 10 minutes. The resulting solution was stirred for 1.5 h in a dry-ice bath letting the temperature settle at −40° C. The reaction was cooled again to −78° C. and 6-methoxy-[1,5]naphthyridine-4-carbaldehyde (3.35 g, 17.82 mmol; prepared according to WO 2006/032466) was added quickly as a solid (2 mL THF were also added for rinse) and stirring was continued for 1.75 h at −78° C. Aq. NH4Cl (50 mL) and EA (50 mL) were added. The two layers were separated and the aq. layer was extracted once with EA (50 mL). The combined org. layers were washed with brine (60 mL), dried over Na2SO4, filtered and concentrated to dryness. The residue was chromatographed (Hept-EA 1-1 to 1-4) to give the title compound as a pale yellow solid (2.68 g, 88% yield). The compound was obtained as a 1-1 mixture of (syn,anti)-isomers, contaminated by 10% of the starting aldehyde.

reactant | trans-(4-tert-butoxycarbonylaminocyclohexyl)-acetic acid methyl ester | 6.63 mmol, 1.80 g | COC(C[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)=O | C14H25NO4
reactant | LiHMDS | 1M, 17.1 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 6-methoxy-[1,5]naphthyridine-4-carbaldehyde | 17.82 mmol, 3.35 g | COC=1N=C2C(=CC=NC2=CC1)C=O | C10H8N2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | trans-2-(4-tert-butoxycarbonylamino-cyclohexyl)-3-hydroxy-3-(6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid methyl ester | 2.68 g, 88% yield | COC(C(C(C1=CC=NC2=CC=C(N=C12)OC)O)[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)=O | C24H33N3O6
